US07057073B2
Picric acid (0.27 g, 1.20 mmol) and 4-amino-1,2,4-triazole (0.504 g, 6.00 mmol) are dissolved in a mixture of DMSO (3.6 ml) and toluene (4.8 ml) and treated with a 25 wt. % solution of sodium methoxide in methanol (3.00 ml, 13.1 mmol). The resulting suspension is stirred and heated from ambient temperature to 95° C. over a one hour period. The reaction suspension is cooled to ambient temperature prior to the addition of water (22.5 mL) and a 50% aqueous solution of sodium hydroxide (1.95 ml, 37.2 mmol). The brick-red suspension is stirred for 0.5 hour in a heated water bath (98–100° C.) and cooled in an ice bath for several hours. The resulting suspension is filtered and the resulting orange solid (trinitrophloroglucinol sodium salt) is collected and dissolved in hot 3N hydrochloric acid (16 ml). The resulting solution is cooled to ambient temperature prior to storage at 4° C. The crystalline product is collected, washed with cold 3N hydrochloric acid and dried to give trinitrophloroglucinol (0.211 g) in 67% overall yield.

reactant | Picric acid | 1.20 mmol, 0.27 g | C1([N+](=O)[O-])=CC([N+](=O)[O-])=CC([N+](=O)[O-])=C1O | C6H3N3O7
reactant | 4-amino-1,2,4-triazole | 6.00 mmol, 0.504 g | NN1C=NN=C1 | C2H4N4
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 13.1 mmol, 3.00 ml | CO | CH4O
reactant | sodium hydroxide | 37.2 mmol, 1.95 ml | [OH-].[Na+]
reactant | water | 22.5 mL | O | H2O
solvent | DMSO | 3.6 ml | CS(=O)C | C2H6OS
solvent | toluene | 4.8 ml | C1(=CC=CC=C1)C | C7H8
product | trinitrophloroglucinol | 0.211 g | [N+](=O)([O-])C1=C(C(=C(C(=C1O)[N+](=O)[O-])O)[N+](=O)[O-])O | C6H3N3O9
